### PR TITLE
[Merged by Bors] - feat: reflections, inversion sequences in Coxeter groups

### PR DESCRIPTION
**Pull request by trivial1711**
- Add theorem `List.length_eraseIdx_add_one` to `Data/List/Basic.lean`, which states that if `i < l.length`, then the length of `l.eraseIdx i plus one` is equal to the length of `l`.
- Add new file `GroupTheory/Coxeter/Inversion.lean`. Define reflections, left inversions, right inversions, and inversion sequences. Prove their basic properties.

I decided to split #11408 (now closed) into two pull requests. This is the second one. The first is #11465.

---

- [x] depends on: #11465

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by trivial1711** [comment]
I'm not entirely sure what happened with the CI here. It is not very clear about what went wrong.

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -3133,6 +3133,18 @@ theorem eraseIdx_eq_take_drop_succ {l : List ι} {i : ℕ} :
...
 
+theorem length_eraseIdx_add_one {l : List ι} {i : ℕ} (h : i < l.length) :
+    (l.eraseIdx i).length + 1 = l.length := calc
+  (l.eraseIdx i).length + 1
+  _ = (l.take i ++ l.drop (i + 1)).length + 1         := by rw [eraseIdx_eq_take_drop_succ]
+  _ = (l.take i).length + (l.drop (i + 1)).length + 1 := by rw [length_append]
+  _ = i + (l.drop (i + 1)).length + 1                 := by rw [length_take_of_le (le_of_lt h)]
+  _ = i + (l.length - (i + 1)) + 1                    := by rw [length_drop]
+  _ = (i + 1) + (l.length - (i + 1))                  := by
+      rw [Nat.add_assoc, Nat.add_comm _ 1, Nat.add_assoc]
```
Comment (jcommelin) [inline Mathlib/Data/List/Basic.lean:3144]: Does this work?
```suggestion
  _ = (i + 1) + (l.length - (i + 1))                  := by omega
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 2]
```diff
@@ -0,0 +1,456 @@
...
+variable {B : Type*}
+variable {W : Type*} [Group W]
+variable {M : CoxeterMatrix B} (cs : CoxeterSystem M W)
+
+local prefix:100 "s" => cs.simple
+local prefix:100 "π" => cs.wordProd
+local prefix:100 "ℓ" => cs.length
+
+/-- The proposition that `t` is a reflection of the Coxeter system `cs`; i.e., it is of the form
+$w s_i w^{-1}$, where $w \in W$ and $s_i$ is a simple reflection. -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:57]:
```suggestion
/-- `t : W` is a *reflection* of the Coxeter system `cs` if it is of the form
$w s_i w^{-1}$, where $w \in W$ and $s_i$ is a simple reflection. -/
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 3]
```diff
@@ -0,0 +1,456 @@
...
+def IsReflection (t : W) : Prop := ∃ w i, t = w * s i * w⁻¹
+
+theorem isReflection_simple (i : B) : cs.IsReflection (s i) := by use 1, i; simp
+
+theorem pow_two_eq_one_of_isReflection {t : W} (ht : cs.IsReflection t) : t ^ 2 = 1 := by
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:62]:
```suggestion
theorem IsReflection.pow_two_eq_one {t : W} (ht : cs.IsReflection t) : t ^ 2 = 1 := by
```
This way you can write `ht.pow_two_eq_one` if you want to use this somewhere.

The same comment applies to the results below.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 4]
```diff
@@ -0,0 +1,456 @@
...
+theorem mul_self_eq_one_of_isReflection {t : W} (ht : cs.IsReflection t) : t * t = 1 := by
+  rcases ht with ⟨w, i, rfl⟩
+  simp
+
+theorem inv_eq_self_of_isReflection {t : W} (ht : cs.IsReflection t) : t⁻¹ = t := by
+  rcases ht with ⟨w, i, rfl⟩
+  group
+  simp
+
+theorem length_reflection_odd {t : W} (ht : cs.IsReflection t) : Odd (ℓ t) := by
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:75]:
```suggestion
theorem IsReflection.length_odd {t : W} (ht : cs.IsReflection t) : Odd (ℓ t) := by
```
In fact, it might be more economical to put all these lemmas in `namespace IsReflection` so that you don't have to prefix all the names with `IsReflection.`.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 5]
```diff
@@ -0,0 +1,470 @@
...
+  simp
+
+theorem mul_self : t * t = 1 := by
+  rcases ht with ⟨w, i, rfl⟩
+  simp
+
+theorem inv : t⁻¹ = t := by
+  rcases ht with ⟨w, i, rfl⟩
+  group
+  simp
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:78]:
```suggestion
  simp [mul_assoc]
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 6]
```diff
@@ -0,0 +1,470 @@
...
+
+theorem length_odd : Odd (ℓ t) := by
+  rcases ht with ⟨w, i, rfl⟩
+  rw [Nat.odd_iff, length_mul_mod_two, Nat.add_mod, length_mul_mod_two, ← Nat.add_mod,
+      length_simple, length_inv, add_comm, ← add_assoc, ← two_mul, Nat.mul_add_mod]
+  norm_num
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:84]: What do you think of the following approach?
```suggestion
  suffices cs.lengthParity t = Multiplicative.ofAdd 1 by
    simpa [lengthParity_eq_ofAdd_length, ZMod.eq_one_iff_odd]
  rcases ht with ⟨w, i, rfl⟩
  simp [lengthParity_simple]
```
This will need
```
import Mathlib.Data.ZMod.Parity
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 7]
```diff
@@ -0,0 +1,470 @@
...
+
+theorem length_mul_left_ne (w : W) : ℓ (w * t) ≠ ℓ w := by
+  apply_fun (· % 2)
+  dsimp only
+  rw [length_mul_mod_two]
+  intro h
+  have := h ▸ Nat.mod_two_add_add_odd_mod_two (ℓ w) ht.length_odd
+  exact Nat.add_self_ne_one _ this
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:92]:
```suggestion
  suffices cs.lengthParity (w * t) ≠ cs.lengthParity w by
    contrapose! this
    simp only [lengthParity_eq_ofAdd_length, this]
  rcases ht with ⟨w, i, rfl⟩
  simp [lengthParity_simple]
```
Idem dito for the proof below.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 8]
```diff
@@ -0,0 +1,470 @@
...
+@[simp]
+theorem isReflection_conj_iff (w t : W) :
+    cs.IsReflection (w * t * w⁻¹) ↔ cs.IsReflection t := by
+  constructor
+  · rintro ⟨u, i, hi⟩
+    use w⁻¹ * u, i
+    apply mul_left_cancel (a := w)
+    apply mul_right_cancel (b := w⁻¹)
+    rw [hi]
+    group
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:118]:
```suggestion
  · intro h
    have := h.conj (w := w⁻¹)
    simpa [← mul_assoc] using h.conj (w := w⁻¹)
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 9]
```diff
@@ -0,0 +1,470 @@
...
+
+theorem pow_two : t ^ 2 = 1 := by
+  rcases ht with ⟨w, i, rfl⟩
+  simp
+
+theorem mul_self : t * t = 1 := by
+  rcases ht with ⟨w, i, rfl⟩
+  simp
+
+theorem inv : t⁻¹ = t := by
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:75]: I suggest adding
```lean
theorem inv_reflection : cs.IsReflection t⁻¹ := by
  rwa [ht.inv]
```
below this.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 10]
```diff
@@ -0,0 +1,470 @@
...
+  (iff_not_comm.mp ht.isRightInversion_mul_left_iff).symm
+
+theorem isLeftInversion_mul_right_iff {w : W} :
+    cs.IsLeftInversion (t * w) t ↔ ¬cs.IsLeftInversion w t := by
+  unfold IsLeftInversion
+  simp only [← mul_assoc, ht.mul_self, one_mul, ht, true_and,
+    not_lt]
+  constructor
+  · exact le_of_lt
+  · exact (lt_of_le_of_ne' · (ht.length_mul_right_ne w))
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:164]:
```suggestion
  rw [← isRightInversion_inv_iff, ← isRightInversion_inv_iff, mul_inv_rev, ht.inv,
    ht.isRightInversion_mul_left_iff]
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 11]
```diff
@@ -0,0 +1,470 @@
...
+  (iff_not_comm.mp ht.isLeftInversion_mul_right_iff).symm
+
+end IsReflection
+
+@[simp]
+theorem isRightInversion_simple_iff_isRightDescent (w : W) (i : B) :
+    cs.IsRightInversion w (s i) ↔ cs.IsRightDescent w i := by
+  unfold IsRightInversion IsRightDescent
+  have := cs.isReflection_simple i
+  tauto
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:177]: This can be shortened to
```suggestion
  simp [IsRightInversion, IsRightDescent, cs.isReflection_simple i]
```
if you want. Idem dito below.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 12]
```diff
@@ -0,0 +1,470 @@
...
+      append_cancel_left_eq, and_true, true_and]
+    group
+    simp [mul_assoc]
+
+private theorem leftInvSeq_eq_reverse_rightInvSeq_reverse (ω : List B) :
+    lis ω = (ris ω.reverse).reverse := by
+  induction' ω with i ω ih
+  · simp
+  · rw [leftInvSeq, reverse_cons, ← concat_eq_append, rightInvSeq_concat, ih]
+    simp [map_reverse]
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:245]:
```suggestion
private theorem leftInvSeq_eq_reverse_rightInvSeq_reverse (ω : List B) :
    lis ω = (ris ω.reverse).reverse := by
  induction' ω with i ω ih
  · simp
  · rw [leftInvSeq, reverse_cons, ← concat_eq_append, rightInvSeq_concat, ih]
    simp [map_reverse]

theorem leftInvSeq_concat (ω : List B) (i : B) :
    lis (ω.concat i) = (lis ω).concat ((π ω) * (s i) * (π ω)⁻¹) := by
  simp [leftInvSeq_eq_reverse_rightInvSeq_reverse, rightInvSeq]
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 13]
```diff
@@ -0,0 +1,470 @@
...
+    rw [h₂]
+    rw [cs.getD_rightInvSeq, cs.getD_rightInvSeq]
+    rw [(Nat.sub_add_cancel (by linarith) : j' - 1 + 1 = j')]
+    rw [eraseIdx_eq_take_drop_succ]
+    rw [drop_append_eq_append_drop]
+    rw [drop_length_le (by simp; left; linarith)]
+    rw [length_take, drop_drop, nil_append]
+    rw [min_eq_left_of_lt (j_lt_j'.trans j'_lt_length)]
+    rw [Nat.succ_eq_add_one, ← add_assoc, Nat.sub_add_cancel (by linarith)]
+    rw [mul_left_inj, mul_right_inj]
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:432]: I think you can chain these together in a single `rw`, even if you format them on separate lines.
If you want to keep the line breaks, you should probably add a small comment, otherwise someone else will merge the lines in the future.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean (hunk 9 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:75]: I did it but I called it "isReflection_inv".

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 14]
```diff
@@ -0,0 +1,443 @@
...
+
+theorem isReflection_inv : cs.IsReflection t⁻¹ := by rwa [ht.inv]
+
+theorem length_odd : Odd (ℓ t) := by
+  suffices cs.lengthParity t = Multiplicative.ofAdd 1 by
+    simpa [lengthParity_eq_ofAdd_length, ZMod.eq_one_iff_odd]
+  rcases ht with ⟨w, i, rfl⟩
+  simp [lengthParity_simple]
+
+theorem length_mul_left_ne (w : W) : ℓ (w * t) ≠ ℓ w := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:88]: I think `mul_left` means "multiply the thing of interest on the left" in mathlib, so these are swapped

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 15]
```diff
@@ -0,0 +1,443 @@
...
+    cs.IsRightInversion (w * t) t ↔ ¬cs.IsRightInversion w t := by
+  unfold IsRightInversion
+  simp only [mul_assoc, ht.inv, ht.mul_self, mul_one, ht, true_and, not_lt]
+  constructor
+  · exact le_of_lt
+  · exact (lt_of_le_of_ne' · (ht.length_mul_left_ne w))
+
+theorem not_isRightInversion_mul_left_iff {w : W} :
+    ¬cs.IsRightInversion (w * t) t ↔ cs.IsRightInversion w t :=
+  (iff_not_comm.mp ht.isRightInversion_mul_left_iff).symm
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:151]: Mini-golf:
```suggestion
  ht.isRightInversion_mul_left_iff.not_left
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 16]
```diff
@@ -0,0 +1,443 @@
...
+
+theorem isLeftInversion_mul_right_iff {w : W} :
+    cs.IsLeftInversion (t * w) t ↔ ¬cs.IsLeftInversion w t := by
+  rw [← isRightInversion_inv_iff, ← isRightInversion_inv_iff, mul_inv_rev, ht.inv,
+    ht.isRightInversion_mul_left_iff]
+
+theorem not_isLeftInversion_mul_right_iff {w : W}  :
+    ¬cs.IsLeftInversion (t * w) t ↔ cs.IsLeftInversion w t :=
+  (iff_not_comm.mp ht.isLeftInversion_mul_right_iff).symm
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:160]:
```suggestion
  ht.isLeftInversion_mul_right_iff.not_left
```

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 17]
```diff
@@ -0,0 +1,443 @@
...
+  induction' ω with i ω ih
+  · simp
+  · rw [leftInvSeq, reverse_cons, ← concat_eq_append, rightInvSeq_concat, ih]
+    simp [map_reverse]
+
+theorem leftInvSeq_concat (ω : List B) (i : B) :
+    lis (ω.concat i) = (lis ω).concat ((π ω) * (s i) * (π ω)⁻¹) := by
+  simp [leftInvSeq_eq_reverse_rightInvSeq_reverse, rightInvSeq]
+
+theorem rightInvSeq_reverse (ω : List B) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:227]: Can (/ should) these be phrased with `Function.LeftInverse`?

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 18]
```diff
@@ -0,0 +1,443 @@
...
+  · simp
+  · simpa [rightInvSeq]
+
+@[simp] theorem length_leftInvSeq (ω : List B) : (lis ω).length = ω.length := by
+  simp [leftInvSeq_eq_reverse_rightInvSeq_reverse]
+
+theorem getD_rightInvSeq (ω : List B) (j : ℕ) :
+    (ris ω).getD j 1 = (π (ω.drop (j + 1)))⁻¹
+        * (Option.map (cs.simple) (ω.get? j)).getD 1
+        * π (ω.drop (j + 1)) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:246]: I find it a little hard to scan the structure of the conclusion; maybe a line break after the `=`? Same for the next theorem

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 19]
```diff
@@ -0,0 +1,443 @@
...
+    ris (ω.drop j) = (ris ω).drop j := by
+  induction' j with j ih₁ generalizing ω
+  · simp
+  · induction' ω with k ω _
+    · simp
+    · rw [drop_succ_cons, ih₁ ω, rightInvSeq, drop_succ_cons]
+
+theorem leftInvSeq_take (ω : List B) (j : ℕ) :
+    lis (ω.take j) = (lis ω).take j := by
+  rcases em (j ≤ ω.length) with le | gt
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:297]: Do you want `le_or_lt j ω.length`? (Or `le_or_le`?)

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 20]
```diff
@@ -0,0 +1,443 @@
...
+    cs.IsReflection t := by
+  simp only [leftInvSeq_eq_reverse_rightInvSeq_reverse, mem_reverse] at ht
+  exact cs.isReflection_of_mem_rightInvSeq ω.reverse ht
+
+theorem wordProd_mul_getD_rightInvSeq (ω : List B) (j : ℕ) :
+    π ω * ((ris ω).getD j 1) = π (ω.eraseIdx j) := by
+  rw [getD_rightInvSeq, eraseIdx_eq_take_drop_succ]
+  nth_rw 1 [← take_append_drop (j + 1) ω]
+  rw [take_succ]
+  rcases em (j < ω.length) with hj | nhj
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:326]: `lt_or_le`

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 21]
```diff
@@ -0,0 +1,443 @@
...
+  nth_rw 2 [← reverse_reverse ω]
+  rw [wordProd_reverse]
+  exact cs.prod_rightInvSeq _
+
+theorem nodup_rightInvSeq_of_isReduced {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
+  apply List.nodup_iff_get?_ne_get?.mpr
+  intro j j' j_lt_j' j'_lt_length dup
+  -- dup : get? (rightInvSeq cs ω) j = get? (rightInvSeq cs ω) j'
+  -- ⊢ False
+  simp at j'_lt_length
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:395]: Squeeze, or `replace j'_lt_length : j' < List.length ω := by simpa` to also replace the next comment

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 22]
```diff
@@ -0,0 +1,443 @@
...
+  rw [this]
+  nth_rw 2 [← reverse_reverse ω]
+  rw [wordProd_reverse]
+  exact cs.prod_rightInvSeq _
+
+theorem nodup_rightInvSeq_of_isReduced {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
+  apply List.nodup_iff_get?_ne_get?.mpr
+  intro j j' j_lt_j' j'_lt_length dup
+  -- dup : get? (rightInvSeq cs ω) j = get? (rightInvSeq cs ω) j'
+  -- ⊢ False
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:394]: If you think these are useful, you might use `show` instead so lean checks them. Comments like this are likely to get out of date

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 23]
```diff
@@ -0,0 +1,443 @@
...
+  simp at j'_lt_length
+  -- j'_lt_length: j' < List.length ω
+  rw [get?_eq_get (by simp; linarith), get?_eq_get (by simp; linarith)] at dup
+  apply Option.some_injective at dup
+  rw [← getD_eq_get _ 1, ← getD_eq_get _ 1] at dup
+  set! t := (ris ω).getD j 1 with h₁
+  set! t' := (ris (ω.eraseIdx j)).getD (j' - 1) 1 with h₂
+  have h₃ : t' = (ris ω).getD j' 1                    := by
+    rw [h₂, cs.getD_rightInvSeq, cs.getD_rightInvSeq,
+      (Nat.sub_add_cancel (by linarith) : j' - 1 + 1 = j'), eraseIdx_eq_take_drop_succ,
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:404]: Probably all the `linarith`s in this proof are about naturals and should be `omega`

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 24]
```diff
@@ -0,0 +1,443 @@
...
+        apply List.map_congr
+        intro t ht
+        exact (cs.isReflection_of_mem_rightInvSeq _ ht).inv
+    _ = ris ω.reverse                           := map_id _
+  rw [this]
+  nth_rw 2 [← reverse_reverse ω]
+  rw [wordProd_reverse]
+  exact cs.prod_rightInvSeq _
+
+theorem nodup_rightInvSeq_of_isReduced {ω : List B} (rω : cs.IsReduced ω) : List.Nodup (ris ω) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:390]: Maybe `IsReduced.nodup_rightInvSeq` to allow dot notation? (Also the next one)

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks! Some stylistic comments

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 25]
```diff
@@ -0,0 +1,443 @@
...
+  rcases ht with ⟨w, i, rfl⟩
+  simp
+
+theorem inv : t⁻¹ = t := by
+  rcases ht with ⟨w, i, rfl⟩
+  simp [mul_assoc]
+
+theorem isReflection_inv : cs.IsReflection t⁻¹ := by rwa [ht.inv]
+
+theorem length_odd : Odd (ℓ t) := by
```
[the remark this answers is not in the document]
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:82]: Do you have a reference for this rule?

File: Mathlib/GroupTheory/Coxeter/Inversion.lean (hunk 14 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:88]: Yes, but I think `w` is the "thing of interest" and not `t`.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 26]
```diff
@@ -0,0 +1,443 @@
...
+
+theorem mul_self : t * t = 1 := by
+  rcases ht with ⟨w, i, rfl⟩
+  simp
+
+theorem inv : t⁻¹ = t := by
+  rcases ht with ⟨w, i, rfl⟩
+  simp [mul_assoc]
+
+theorem isReflection_inv : cs.IsReflection t⁻¹ := by rwa [ht.inv]
```
[the remark this answers is not in the document]
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:80]: Why?

File: Mathlib/GroupTheory/Coxeter/Inversion.lean (hunk 17 above)
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:227]: How?

**Comment by trivial1711** [comment]
Thank you so much for the feedback.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean (hunk 26 above)
[the remark this answers is not in the document]
Comment (Ruben-VandeVelde) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:80]: The repetitiveness seems odd, and I think I've seen `Foo.inv` used for `Foo · → Foo ·⁻¹`; compare `Continuous.inv`

File: Mathlib/GroupTheory/Coxeter/Inversion.lean (hunk 14 above)
Comment (Ruben-VandeVelde) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:88]: I'll take your word for it :)

File: Mathlib/GroupTheory/Coxeter/Inversion.lean (hunk 26 above)
[the remark this answers is not in the document]
Comment (trivial1711) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:80]: The best answer to the question
> If $t$ is a reflection in a Coxeter group, what can one say about $t^{-1}$?

is that $t^{-1} = t$, not that $t^{-1}$ is also a reflection. That's why $t^{-1} = t$ has the short name `inv`.
